US05627215
(E)-1,14-Di-allyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride
For conversion into the title compound, 37.45 g of crude (E)-1,14-di-allyl-1,5,10,14-tetra(diethoxyphosphoryl)-1,5,10,14-tetraazatetradec-7-ene are dissolved in 170 ml of 7THF, and hydrogen chloride is passed into the solution at 5° C. until saturated. The reaction mixture is stirred for 15 h at room temperature, 250 ml of diethyl ether are added to the resulting suspension, the mixture is filtered and the filtration residue is washed with a small amount of ethanol and diethyl ether. Recrystallisation from ethanol/water (with treatment with activated carbon) and drying the crystallisate under a high vacuum at 120° C. yield the title compound, m.p. >260° C. 1H-NMR (D2O): δ2.06-2.17(m,4H); 3.13-3.19(m,8H); 3.69(d,4H); 3.78(d,4H); 5.49-5.55(m,4H); 5.84-5.98(m,2H); 6.05-6.07(m,2H).

reactant | (E)-1,14-di-allyl-1,5,10,14-tetra(diethoxyphosphoryl)-1,5,10,14-tetraazatetradec-7-ene | 37.45 g | C(C=C)N(CCCN(C\C=C\CN(CCCN(P(=O)(OCC)OCC)CC=C)P(=O)(OCC)OCC)P(=O)(OCC)OCC)P(=O)(OCC)OCC | C32H68N4O12P4
reactant | hydrogen chloride | Cl | ClH
product | (E)-1,14-Di-allyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride | Cl.Cl.Cl.Cl.C(C=C)NCCCNC\C=C\CNCCCNCC=C | InChI=1S/C16H32N4.4ClH/c1-3-9-17-13-7-15-19-11-5-6-12-20-16-8-14-18-10-4-2;;;;/h3-6,17-20H,1-2,7-16H2;4*1H/b6-5+;;;;
